### PR TITLE
[Merged by Bors] - feat(NumberTheory/ArithmeticFunction/Liouville): definition of the Liouville function

### PR DESCRIPTION
**Pull request by tb65536**
This PR defines the Liouville function as an arithmetic function.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean [hunk 1]
```diff
@@ -0,0 +1,50 @@
...
+
+/-!
+# The Liouville Function
+
+This file defines the Liouville function `λ(n)`.
+
+## Main Definitions
+
+* `ArithmeticFunction.liouville` is the Liouville function `λ(n)` defined to be `1` is `n` has an
+even number of prime factors (counting multiplicity) and `-1` otherwise.
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean]:
```suggestion
* `ArithmeticFunction.liouville` is the Liouville function `λ(n)` defined to be `1` if `n` has an
  even number of prime factors (counting multiplicity) and `-1` otherwise.
```

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean [hunk 2]
```diff
@@ -0,0 +1,50 @@
...
+-/
+
+@[expose] public section
+
+namespace ArithmeticFunction
+
+/-- The Liouville function `λ(n)` defined to be `1` is `n` has an even number of prime factors
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean]:
```suggestion
/-- The Liouville function `λ(n)` defined to be `1` if `n` has an even number of prime factors
```

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean [hunk 3]
```diff
@@ -0,0 +1,50 @@
...
+(counting multiplicity) and `-1` otherwise. -/
+def liouville : ArithmeticFunction ℤ where
+  toFun n := if n = 0 then 0 else (-1) ^ cardFactors n
+  map_zero' := by simp
+
+theorem liouville_apply {n : ℕ} (h : n ≠ 0) : liouville n = (-1) ^ cardFactors n :=
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:31]: Maybe add (or replace by) a version that uses `(n : ℕ) [NeZero n]`? Same below. One could even possibly add an instance `instance (n : ℕ) [NeZero n] : NeZero (liouville n) := ...`.

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean [hunk 4]
```diff
@@ -0,0 +1,50 @@
...
+
+theorem liouville_ne_zero {n : ℕ} (h : n ≠ 0) : liouville n ≠ 0 := by
+  simp [liouville_apply h]
+
+theorem liouville_apply_one : liouville 1 = 1 := by
+  simp [liouville_apply]
+
+theorem liouville_apply_mul (m n : ℕ) : liouville (m * n) = liouville m * liouville n := by
+  by_cases hm : m = 0
+  · simp [hm]
```
Comment (MichaelStollBayreuth) [inline Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:42]:
```suggestion
  rcases eq_or_ne m 0 with rfl | hm
  · simp
```
and similarly for the next two lines. (Matter of taste; I'll leave that to you.)

**Review by MichaelStollBayreuth — APPROVED** [review]
LGTM!

maintainer delegate

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean (hunk 3 above)
Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:31]: I'm not so sure about this. It doesn't match existing lemmas (like `ArithmeticFunction.zeta_apply_ne`) and means that you have to make sure that the `NeZero` instances are always present when applying the theorem (e.g., when `rw`-ing).

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean (hunk 4 above)
Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:42]: Personally I prefer the `by_cases` for conceptual clarity (and also a shorter proof overall).

**Comment by riccardobrasca** [comment]
Thanks!

bors d+

File: Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean (hunk 3 above)
Comment (MichaelStollBayreuth) [reply Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:31]: We can leave it as is for now; we can still add `NeZero` versions later when convenient.

Comment (tb65536) [reply Mathlib/NumberTheory/ArithmeticFunction/Liouville.lean:31]: Typically `NeZero` is used when there's a single fixed quantity that you need to know is not zero to make a lot of things work (like `n` being nonzero in `ZMod n`, or `(2 : R)` being nonzero for arguments that fail in characteristic 2). But typically for the Liouville function you would be plugging in lots of different values (e.g., analytic number theorists love summing the Liouville function), so I don't think `NeZero` is the right tool here.
